US04514416
Into 300 ml of dried pyridine, were dissolved 7.0 g of 4-guanidinobenzoyl chloride hydrochloride and 7.4 g of 4-amidino-2-nitrophenol methanesulfonate. The solution was stirred overnight at room temperature. The precipitate which was formed was collected by filtration, suspended in methanol and filtered. The filtrate and 300 ml of ethyl ether were stirred to precipitate a colorless solid substance which was collected by filtration, dissolved in a small volume of methanol, and stirred together with a saturated sodium bicarbonate solution to precipitate the intended carbonate. The precipitated carbonate was collected by filtration, then air-dried, suspended in a small volume of methanol, admixed with methanesulfonic acid at room temperature. After 10 minutes, ethyl ether was added to the reaction mixture to precipitate crystals. The crystals were collected by filtration, washed thoroughly with ethyl ether to obtain 4-amidino-2-nitrophenyl 4-guanidinobenzoate dimethanesulfonate.

reactant | 4-guanidinobenzoyl chloride hydrochloride | 7.0 g | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-amidino-2-nitrophenol methanesulfonate | 7.4 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)[N+](=O)[O-] | C8H9N3O5S
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-nitrophenyl 4-guanidinobenzoate dimethanesulfonate | CS(=O)(=O)O.CS(=O)(=O)O.N(C(=N)N)C1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)[N+](=O)[O-])C=C1 | InChI=1S/C15H14N6O4.2CH4O3S/c16-13(17)9-3-6-12(11(7-9)21(23)24)25-14(22)8-1-4-10(5-2-8)20-15(18)19;2*1-5(2,3)4/h1-7H,(H3,16,17)(H4,18,19,20);2*1H3,(H,2,3,4)
